US07335658B2
SYNTHESIS OF 6-[3,5-DIMETHYL-4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
To a solution of 6-(3,5-dimethylpiperazin-1-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.40 g, 1.33 mmol) in dichloromethane (15 mL) was added diisopropyl ethylamine (0.34 g, 0.46 mL, 2.66 mmol) followed by 2-trifluoromethylbenzoyl chloride (0.31 g, 0.22 mL, 1.46 mmol) at ambient temperature. The reaction solution was stirred for 16 hours and poured into cold water (10 mL). The organic layer was extracted with dichloromethane (50 mL) and washed with saturated solution of NaHCO3 (2×10 mL) and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo. The crude material was purified by column chromatography eluting with ethyl acetate (100%) to obtain 0.18 g of colorless solid (28% yield). 1H NMR (300 MHz, CDCl3) δ 8.03-7.91, 7.70, 7.63-7.49, 7.32, 6.99-6.95, 5.00, 4.39-4.22, 3.64, 3.55-3.47, 3.39-3.17, 1.51-1.38, 1.24-1.14, 0.76-0.67, 0.42, 0.05. 13C NMR (75 MHz, CDCl3) δ 168.0, 163.0, 160.9, 144.9, 132.3, 131.9, 129.4, 129.3, 127.2, 127.0, 126.8, 111.5, 50.4, 49.1, 48.7, 48.5, 48.2, 45.5, 45.3, 39.6, 34.6, 20.2, 19.5, 8.6, 4.2.

reactant | 6-(3,5-dimethylpiperazin-1-yl)pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 1.33 mmol, 0.40 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CC(NC(C1)C)C | C16H25N5O
reactant | diisopropyl ethylamine | 2.66 mmol, 0.46 mL, 0.34 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trifluoromethylbenzoyl chloride | 1.46 mmol, 0.22 mL, 0.31 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 6-[3,5-DIMETHYL-4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | 0.18 g, 28% yield | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CC(N(C(C1)C)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C24H28F3N5O2
